US04912115
2-[N-Methyl-N-(2-(6,7-dimethoxy-isoquinolin-4-yl)-ethyl)-3-amino-propyl]-5,6-dimethoxy-phthalimide hemihydrate
Prepared from 2-(2-formyl-ethyl)-5,6-dimethoxy-phthalimide and 4-(2-methylamino-ethyl)-6,7-dimethoxy-isoquinoline analogously to Example 4.

reactant | 2-(2-formyl-ethyl)-5,6-dimethoxy-phthalimide | C(=O)CCC12C(C(=O)NC1=O)C(=C(C=C2)OC)OC | C13H15NO5
reactant | 4-(2-methylamino-ethyl)-6,7-dimethoxy-isoquinoline | CNCCC1=CN=CC2=CC(=C(C=C12)OC)OC | C14H18N2O2
product | 2-[N-Methyl-N-(2-(6,7-dimethoxy-isoquinolin-4-yl)-ethyl)-3-amino-propyl]-5,6-dimethoxy-phthalimide hemihydrate | O.CN(CCCC12C(C(=O)NC1=O)C(=C(C=C2)OC)OC)CCC2=CN=CC1=CC(=C(C=C21)OC)OC.CN(CCC2=CN=CC1=CC(=C(C=C21)OC)OC)CCCC21C(C(=O)NC2=O)C(=C(C=C1)OC)OC | InChI=1S/2C27H33N3O6.H2O/c2*1-30(12-8-17-15-28-16-18-13-21(34-3)22(35-4)14-19(17)18)11-6-9-27-10-7-20(33-2)24(36-5)23(27)25(31)29-26(27)32;/h2*7,10,13-16,23H,6,8-9,11-12H2,1-5H3,(H,29,31,32);1H2
